US06063806
3,5-Xylidine (5.0 g) and acrylonitrile (2.3 g) were dissolved in acetic acid (2 ml), and the mixture was stirred at 60° C. for 20 hr. Ethyl acetate (200 ml) was added to the reaction mixture and neutralized with saturated aqueous solution of sodium hydrogencarbonate. The mixture was washed with water and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/benzene=1/10-1/3) to give 4.5 g of oily β-(3,5-dimethylanilino)propionitrile.

reactant | 3,5-Xylidine | 5.0 g | NC1=CC(=CC(=C1)C)C | C8H11N
reactant | acrylonitrile | 2.3 g | C(C=C)#N | C3H3N
reactant | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | β-(3,5-dimethylanilino)propionitrile | 4.5 g | CC=1C=C(NCCC#N)C=C(C1)C | C11H14N2
